US07312330B2
7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[3,4-d]pyrimidin-4-amine
A mixture of 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (0.095 g, 0.00034 mol), 2,3-dihydrobenzo[b][1,4]dioxin-6-amine (0.10 g, 0.00068 mol) and sodium iodide (0.02 g, 0.0001 mol) in acetonitrile was heated at 150° C. by microwave in a sealed tube for 10 minutes. After cooling to r.t., the mixture was poured into saturated sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate and concentrated to leave an oil. Residue purified by flash chromatography over silica gel (ethyl acetate/hexane gradient 0 to 100%) to give 0.110 g of a white solid.

reactant | 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.00034 mol, 0.095 g | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2Cl | C12H10Cl2N4
reactant | 2,3-dihydrobenzo[b][1,4]dioxin-6-amine | 0.00068 mol, 0.10 g | O1C2=C(OCC1)C=C(C=C2)N | C8H9NO2
reactant | sodium iodide | 0.0001 mol, 0.02 g | [I-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[3,4-d]pyrimidin-4-amine | 0.110 g | ClC=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC2=C(OCCO2)C=C1 | C20H18ClN5O2
